US04405811
A total of 155 g of 2-(isopropylamino) propoxyethanol, 122 g of 37% aqueous formaldehyde, 5 g of 10% Pd/C and 1 l of methanol were charged to an autoclave, pressured to 1000 psi with H2 and heated at 80° C. for 3 hours. Filtration and distillation of the reaction mixture yielded 159 g of 2-(N-isopropyl-N-methylamino)propoxyethanol with b.p. of 125° C. at 20 mm.

reactant | 2-(isopropylamino) propoxyethanol | 155 g | C(C)(C)NC(COC(C)O)C | C8H19NO2
reactant | formaldehyde | 122 g | C=O | CH2O
catalyst | Pd/C | 5 g | [Pd] | Pd
solvent | methanol | 1 l | CO | CH4O
product | 2-(N-isopropyl-N-methylamino)propoxyethanol | 159 g | C(C)(C)N(C)C(COC(C)O)C | C9H21NO2
